US09301951B2
Intermediate 22e: methyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzylthio)propanoate
Into a 100-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-aminophenyl)isonicotinamide (240 mg, 0.65 mmol, 1.00 equiv) in tetrahydrofuran (5 mL), and pyridine (77 mg, 0.97 mmol, 1.50 equiv). This was followed by dropwise addition of a solution of methyl 3-(3-(chlorocarbonyl)benzylthio)propanoate (194 mg, 0.71 mmol, 1.10 equiv) in tetrahydrofuran (5 mL) with stirring. The resulting solution was stirred for 2 h at room temperature. The reaction was then quenched with 30 mL of water. The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined and dried over magnesium sulfate. The resulting mixture was concentrated under vacuum to yield 250 mg (64%) of product as a light yellow solid.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-aminophenyl)isonicotinamide | 0.65 mmol, 240 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC=C2)N)=O)C=CC1)(F)F | C20H16F3N3O
reactant | pyridine | 0.97 mmol, 77 mg, 1.50 equiv | N1=CC=CC=C1 | C5H5N
reactant | methyl 3-(3-(chlorocarbonyl)benzylthio)propanoate | 0.71 mmol, 194 mg, 1.10 equiv | ClC(=O)C=1C=C(CSCCC(=O)OC)C=CC1 | C12H13ClO3S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | methyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzylthio)propanoate | 250 mg, 64% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC=C2)NC(=O)C=2C=C(CSCCC(=O)OC)C=CC2)C=CC1)(F)F | C32H28F3N3O4S
